US05731322
3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
1.0 g (3.1 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 2.33 g (10 mmol) of N, N-dimethyl-2-phenylhydrazono-3-oxobutyramide, 0.82 g (1 0 mmol) of CH3COONa, 2.6 g (40 mmol) of zinc dust and 5 ml of glacial acetic acid were treated as described in example 1. The residue was purified by chromatography on silica gel (EtOAc/MeOH 0%→30%) yielding 0.5 g of product which was crystallized from Et2O yielding 0.5 g of the title compound. M.p.=151°-153° C.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 3.1 mmol, 1.0 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N, N-dimethyl-2-phenylhydrazono-3-oxobutyramide | 10 mmol, 2.33 g | CN(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)C | C12H15N3O2
reactant | CH3COONa | 0 mmol, 0.82 g | CC(=O)O[Na]
catalyst | zinc | 40 mmol, 2.6 g | [Zn] | Zn
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 0.5 g | CC1=CNC=2CC3CCNCC3CC21 | C12H18N2
